US05082932
202.0 g (1.0 mol) of 6-methoxycarbonyl-β-naphthol were suspended in 1120 ml of 90%-strength acetic acid, nitrosated with 182 g (1.05 mol) of 40%-strength sodium nitrite solution at 0°-5° C. in the course of 2.5 hours and then stirring was continued at room temperature for 45 minutes. The suspension obtained was made up to 3 l with water, the solid was filtered off by suction and washed with water until neutral. After drying, 228.1 g (99.7%) of crude 1-nitroso-6-methoxycarbonyl-β-naphthol were obtained.

reactant | 6-methoxycarbonyl-β-naphthol | 1.0 mol, 202.0 g | COC(=O)C=1C=C2C=CC(=CC2=CC1)O | C12H10O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 1-nitroso-6-methoxycarbonyl-β-naphthol | 228.1 g, 99.7% | N(=O)C1=C(C=CC2=CC(=CC=C12)C(=O)OC)O | C12H9NO4
